### PR TITLE
[Merged by Bors] - feat: the atTop filter is countably generated in a second-countable topology

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/AtTopBot.lean [hunk 1]
```diff
@@ -411,6 +428,20 @@ theorem tendsto_atBot_mono [Preorder β] {l : Filter α} {f g : α → β} (h :
...
+  · rw [le_generate_iff]
+    rintro - ⟨y, -, rfl⟩
+    exact mem_generate_of_mem ⟨y, rfl⟩
+  · rw [le_generate_iff]
+    rintro - ⟨x, -, -, rfl⟩
+    rcases hs x with ⟨y, ys, hy⟩
+    have A : Ici y ∈ generate (Ici '' s) := mem_generate_of_mem (mem_image_of_mem _ ys)
+    have B : Ici y ⊆ Ici x := Ici_subset_Ici.2 hy
+    exact sets_of_superset (generate (Ici '' s)) A B
+
```
Comment (ocfnash) [inline Mathlib/Order/Filter/AtTopBot.lean:444]: How about adding the following (weaker) corollary
```suggestion

lemma atTop_eq_generate_of_not_bddAbove [LinearOrder α] {s : Set α} (hs : ¬ BddAbove s) :
    (atTop : Filter α) = generate (Ici '' s) := by
  refine' atTop_eq_generate_of_forall_exists_le fun x ↦ _
  obtain ⟨y, hy, hy'⟩ := not_bddAbove_iff.mp hs x
  exact ⟨y, hy, hy'.le⟩
```
especially as this is in fact what you need in `instIsCountablyGenerated_atTop`?

File: Mathlib/Order/Filter/Basic.lean [hunk 2]
```diff
@@ -2067,6 +2070,26 @@ theorem pure_bind (a : α) (m : α → Filter β) : bind (pure a) m = m a := by
   simp only [Bind.bind, bind, map_pure, join_pure]
 #align filter.pure_bind Filter.pure_bind
 
+lemma eq_pure_iff_singleton_mem {l : Filter α} [hl : NeBot l] {x : α} :
```
Comment (ocfnash) [inline Mathlib/Order/Filter/Basic.lean:2073]: How about first proving:
```lean
lemma le_pure_iff_eq_pure {l : Filter α} [hl : NeBot l] :
    l ≤ pure x ↔ l = pure x := by
  refine' ⟨fun h ↦ _, fun h ↦ h.le⟩
  -- etc.
```
and then proving `eq_pure_iff_singleton_mem` using `le_pure_iff_eq_pure` and `le_pure_iff` (which does already exist, albeit lower down in the file).

**Review by ocfnash — APPROVED** [review]
Just a couple of optional suggestions.

Thanks!

bors d+
